US07691882B2
4-(2-Pyridin-2-yl-ethyl)-((E)-2-nitro-vinyl)-benzene
To an acetic acid (30 mL) solution of 4-(2-pyridin-2-yl-ethyl)benzaldehyde (2.57 g, 12.2 mmol) described in Manufacturing Example 93-1-5 were added nitromethane (7.45 g, 122 mmol) and ammonium acetate (1.88 g, 24.4 mmol) under nitrogen atmosphere at room temperature, which was stirred for 3 hours at 120° C. The reaction mixture was partitioned into water and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporation under a reduced pressure to obtain the title compound (2.83 g, 91%) as a raw product.

reactant | 4-(2-pyridin-2-yl-ethyl)benzaldehyde | 12.2 mmol, 2.57 g | N1=C(C=CC=C1)CCC1=CC=C(C=O)C=C1 | C14H13NO
reactant | nitromethane | 122 mmol, 7.45 g | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 24.4 mmol, 1.88 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4-(2-Pyridin-2-yl-ethyl)-((E)-2-nitro-vinyl)-benzene | 2.83 g, 91% | N1=C(C=CC=C1)CCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C15H14N2O2
